* yan_az_pin_3 -- AnalogGym topology on TSMC6 BSIM-CMG (LEVEL=72)
* Connectivity and mirror ratios are the shipped ones; geometry is re-designed for 0.75 V FinFET.
.subckt yan_az_pin_3 gnda vdda vinn vinp vout
Nm67 net057 VOUTN VDDA VDDA psvt_l142_f4 m=3   $ BIASCM_PMOS
Nm3 net078 VB1 VDDA VDDA psvt_l142_f4 m=12   $ BIASCM_PMOS
Nm13 VOUT net050 VDDA VDDA psvt_l66_f10 m=3   $ gmf2_PMOS
Nm11 net094 net050 VDDA VDDA psvt_l104_f5 m=6   $ gm2_PMOS
Nm5 net050 VOUTN VDDA VDDA psvt_l142_f4 m=3   $ BIASCM_PMOS
Nm4 VOUTN VOUTN VDDA VDDA psvt_l142_f4 m=3   $ BIASCM_PMOS
Nm10 net063 VINP net019 net019 psvt_l65_f8 m=12   $ gm1_PMOS
Nm9 DM_2 VINN net019 net019 psvt_l65_f8 m=12   $ gm1_PMOS
Nm2 net019 VB1 VDDA VDDA psvt_l142_f4 m=6   $ BIASCM_PMOS
Nm1 VB4 VB1 VDDA VDDA psvt_l142_f4 m=3   $ BIASCM_PMOS
Nm0 VB1 VB1 VDDA VDDA psvt_l142_f4 m=3   $ BIASCM_PMOS
Nm16 net077 DM_2 GNDA GNDA nsvt_l41_f6 m=9   $ gm5_NMOS
Nm17 net082 net063 GNDA GNDA nsvt_l41_f6 m=9   $ gm5_NMOS
Nm18 VOUT net057 GNDA GNDA nsvt_l41_f12 m=6   $ gm3_NMOS
Nm22 net094 net051 GNDA GNDA nsvt_l65_f6 m=3   $ gmb1_NMOS
Nm23 net057 net094 GNDA GNDA nsvt_l65_f4 m=1   $ gmb2_NMOS
Nm20 DM_2 VB4 GNDA GNDA nsvt_l142_f4 m=9   $ BIASCM_NMOS
Nm14 VOUTN net077 DM_2 GNDA nsvt_l65_f10 m=3   $ gm8_NMOS
Nm21 net063 VB4 GNDA GNDA nsvt_l142_f4 m=9   $ BIASCM_NMOS
Nm15 net050 net082 net063 GNDA nsvt_l65_f10 m=3   $ gm8_NMOS
Nm19 VB4 VB4 GNDA GNDA nsvt_l142_f4 m=9   $ BIASCM_NMOS
I0 VB1 GNDA 5e-06
C1 net051 GNDA 1.2e-10
C0 net063 VOUT 6e-11
R2 net094 net051 20000
R1 net078 net082 8000
R0 net078 net077 50000
.ends yan_az_pin_3
